US04252817
5-Chloro-6-cyclohexyl-2,3-dihydrobenzofuran-2-one
5 g of 5-chloro-4-cyclohexyl-2-hydroxyphenylacetic acid are dissolved in toluene with heating, 50 mg of p-toluenesulphonic acid are added, and the mixture is boiled in a water separator for 3 hours. The oil obtained after evaporation is purified on a 100-fold quantity of silica gel Merck. The desired product is eluted with chloroform and recrystallized from methylene chloride/petroleum ether. The crystals have an M.P. of 100°-102°.

reactant | 5-chloro-4-cyclohexyl-2-hydroxyphenylacetic acid | 5 g | ClC=1C(=CC(=C(C1)CC(=O)O)O)C1CCCCC1 | C14H17ClO3
reactant | p-toluenesulphonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-6-cyclohexyl-2,3-dihydrobenzofuran-2-one | ClC=1C(=CC2=C(CC(O2)=O)C1)C1CCCCC1 | C14H15ClO2
